US05872137
A mixture of 0.85 g of 4-(2-chlorobenzyloxy)-3,5-dichlorophenol, 0.47 ml of bromoacetaldehyde diethyl acetal, 0.46 g of potassium carbonate and 20 ml of N,N-dimethylformamide was stirred at 90° C. for 6 hours. After cooling to room temperature, the reaction mixture was poured into ice water, and extracted twice with 50 ml of diethyl ether. The combined ether layer was washed with water, and dried with anhydrous magnesium sulfate, followed by removal of the solvent by distillation under reduced pressure. The residue was subjected to silica gel chromatography, which afforded 0.85 g of 4-(2-chlorobenzyloxy)-3,5-dichlorophenoxyacetaldehyde diethyl acetal (72% yield).

reactant | 4-(2-chlorobenzyloxy)-3,5-dichlorophenol | 0.85 g | ClC1=C(COC2=C(C=C(C=C2Cl)O)Cl)C=CC=C1 | C13H9Cl3O2
reactant | bromoacetaldehyde diethyl acetal | 0.47 ml | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium carbonate | 0.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(2-chlorobenzyloxy)-3,5-dichlorophenoxyacetaldehyde diethyl acetal | 0.85 g, 72% yield | C(C)OC(COC1=CC(=C(C(=C1)Cl)OCC1=C(C=CC=C1)Cl)Cl)OCC | C19H21Cl3O4
